US07452886B2
6-(6-Chloro-pyrimidin-4-yloxymethyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
To a solution of 7-(2,2-dimethyl-propyl)-6-hydroxymethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (1.0 mmol) in THF (10 ml) is added NaH (1.2 mmol) at room temperature under nitrogen atmosphere. After 15 min stirring, 4,6-dichloropyrimidine (1.1 mmol) is added and the mixture is stirred at room temperature for 1 h. The reaction mixture is diluted with H2O and extracted with AcOEt. The organic extracts are dried over Na2SO4 and concentrated. The residue obtained is purified by column chromatography on silica gel to give the product in 92% yield. Rf=0.49 (AcOEt:n-hexane=1:2). 1H NMR(400 MHz, CDCl3) δ 1.05 (s, 9H), 4.26(s, 2H), 5.74(s, 2H), 6.83(s, 1H), 6.86(s, 1H), 8.62(s, 1H), 8.97(s, 1H).

reactant | 7-(2,2-dimethyl-propyl)-6-hydroxymethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 1.0 mmol | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CO)(C)C | C13H16N4O
reactant | NaH | 1.2 mmol | [H-].[Na+]
reactant | 4,6-dichloropyrimidine | 1.1 mmol | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | n-hexane | CCCCCC | C6H14
product | 6-(6-Chloro-pyrimidin-4-yloxymethyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 92% yield | ClC1=CC(=NC=N1)OCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C17H17ClN6O
